US07214824B2
13(b): 4-tert-Butyl-3-chloroaniline
To an acetic acid (7 ml) and conc. chloric acid (2 ml) solution of 1-tert-butyl-2-chloro-4-nitrobenzene (1.67 g, 7.8 mmol) was added zinc powder (4.1 g, 62 mmol) at 60° C. The reaction mixture was stirred at 60° C. for 1 hour. Zinc powder was filtered off and washed with H2O. The filtrate was concentrated in vacuo. The residue was dissolved in ethyl acetate and then the organic layer washed with saturated aqueous solution of sodium bicarbonate and brine, dried over sodium sulfate. After filtration to separate solvent and sodium sulfate, the solvent was removed under reduced pressure to give a residue, which was applied to a silica gel chromatography column and eluted with ethyl acetate/hexane=¼ to furnish 0.7 g (48% yield) of the title compound as a brown oil.

reactant | chloric acid | 2 ml | Cl(=O)(=O)O | ClHO3
reactant | 1-tert-butyl-2-chloro-4-nitrobenzene | 7.8 mmol, 1.67 g | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])Cl | C10H12ClNO2
catalyst | zinc | 62 mmol, 4.1 g | [Zn] | Zn
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 4-tert-Butyl-3-chloroaniline | 0.7 g, 48% yield | C(C)(C)(C)C1=C(C=C(N)C=C1)Cl | C10H14ClN
